*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-03[uF]/100[V]
* Murata P/N :GRM155R72A222KA01
* Property : C = 2.20e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R72A222KA01 Port1 Port2
C01 Port1 N01 2.12e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 1.43e-10
R03 N02 N03 1.57e-01
C04 N03 N04 3.18e-07
R04 N03 N04 1.08e+04
C05 N04 N05 4.45e-07
R05 N04 N05 1.21e+03
C06 N05 N06 3.58e-07
R06 N05 N06 1.59e+02
C07 N06 N07 3.21e-07
R07 N06 N07 1.96e+01
C08 N07 N08 2.73e-07
R08 N07 N08 2.83e+00
C09 N08 N09 2.04e-07
R09 N08 N09 6.19e-01
C10 N09 N10 1.06e-07
R10 N09 N10 2.02e-01
C11 N10 N11 3.13e-08
R11 N10 N11 1.03e-01
L12 N11 N12 3.21e-11
R12 N11 N12 2.91e-01
C13 N12 N13 1.68e-09
L13 N12 N13 2.64e-11
R13 N12 N13 1.18e-01
C14 N13 Port2 2.05e-12
L14 N13 Port2 1.51e-10
R14 N13 Port2 2.20e+01
.ENDS GRM155R72A222KA01
